US05808062
3-[[2-(Cyclopropylmethyl)phenyl]thio]-4-hydroxy-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method A using 1-phenyl-1-(trimethylsilyloxy)ethylene (0.990 mL, 4.83 mmol), and diethyl ester of [[2-(cyclopropylmethyl)phenyl]thio]propanedioic acid (1.00 g, 3.10 mmol) m.p. 165°-167° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.25 (dd, 2H), 0.52 (dd, 2H), 1.21 (m, 1H), 2.50 (d, 2H), 6.87 (s, 1H), 6.92 (m, 1H), 7.05 (m,. 2H), 7.32 (m, 1H), 7.56 (m, 3H), 7.86 (m, 2H).

reactant | 1-phenyl-1-(trimethylsilyloxy)ethylene | 4.83 mmol, 0.990 mL | C1(=CC=CC=C1)C(=C)O[Si](C)(C)C | C11H16OSi
reactant | [[2-(cyclopropylmethyl)phenyl]thio]propanedioic acid | 3.10 mmol, 1.00 g | C1(CC1)CC1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C13H14O4S
product | 3-[[2-(Cyclopropylmethyl)phenyl]thio]-4-hydroxy-6-phenyl-2H-pyran-2-one | C1(CC1)CC1=C(C=CC=C1)SC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C21H18O3S
